US07662581B1
To a solution of 2-{3-[1-(1-Benzyl-5-bromo-1H-benzimidazol-2-yl)-2-methyl-propylamino]-propyl}-isoindole-1,3-dione (310 mg, 0.56 mmol) and triethylamine (0.47 ml, 3.36 mmol, 6 eq) in DCM (3 ml) at 0° C., was added p-toluoyl chloride (0.38 ml, 2.8 mmol, 5 eq). The reaction mixture was stirred at 0° C. for 30 minutes. Ethyl acetate and saturated sodium bicarbonate were added. The mixture was extracted with ethyl acetate. The organic layers was combined, dried over MgSO4, filtered, and the filtrate was concentrated in vacuo. The crude material was purified by flash chromatography to give N-[1-(1-Benzyl-5-bromo-1H-benzimidazol-2-yl)-2-methyl-propyl]-N-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propyl]-4-methyl-benzamide (242 mg, yield 65%)

reactant | 2-{3-[1-(1-Benzyl-5-bromo-1H-benzimidazol-2-yl)-2-methyl-propylamino]-propyl}-isoindole-1,3-dione | 0.56 mmol, 310 mg | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC(=C2)Br)C(C(C)C)NCCCN2C(C1=CC=CC=C1C2=O)=O | C29H29BrN4O2
reactant | triethylamine | 3.36 mmol, 0.47 ml, 6 eq | C(C)N(CC)CC | C6H15N
reactant | p-toluoyl chloride | 2.8 mmol, 0.38 ml, 5 eq | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[1-(1-Benzyl-5-bromo-1H-benzimidazol-2-yl)-2-methyl-propyl]-N-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propyl]-4-methyl-benzamide | 242 mg, yield 65% | C(C1=CC=CC=C1)N1C(=NC2=C1C=CC(=C2)Br)C(C(C)C)N(C(C2=CC=C(C=C2)C)=O)CCCN2C(C1=CC=CC=C1C2=O)=O | C37H35BrN4O3
